US04590188
226 mg of (±)-cis-2-(4-methoxyphenyl)-3-hydroxy-7,8-dimethyl-2,3-dihydro-1,5-benzothiazepin-4(5H)-one are suspended in 2 ml of pyridine, and 59 mg of acetyl chloride are added thereto under ice-cooling. The mixture is stirred at room temperature for 2 hours. After the reaction is completed, ethyl acetate-chloroform (1:1) is added to the reaction mixture. The mixture is washed with 10% hydrochlric acid and water, successively. Then, the mixture is dried and evaporated under reduced pressure to remove solvent. 219 mg of (±)-cis-2-(4-methoxyphenyl)-3-acetoxy-7,8-dimethyl-2,3-dihydro-1,5-benzothiazepin-4(5H)-one are obtained.

reactant | (±)-cis-2-(4-methoxyphenyl)-3-hydroxy-7,8-dimethyl-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 226 mg | COC1=CC=C(C=C1)[C@@H]1SC2=C(NC([C@@H]1O)=O)C=C(C(=C2)C)C | C18H19NO3S
reactant | acetyl chloride | 59 mg | C(C)(=O)Cl | C2H3ClO
reactant | ethyl acetate chloroform | C(C)(=O)OCC.C(Cl)(Cl)Cl
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | (±)-cis-2-(4-methoxyphenyl)-3-acetoxy-7,8-dimethyl-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 219 mg | COC1=CC=C(C=C1)[C@@H]1SC2=C(NC([C@@H]1OC(C)=O)=O)C=C(C(=C2)C)C | C20H21NO4S
